US04837349
N-(t-Butyldimethylsilyloxycarbonyl)-2-amino-4-pentenoyl-O-(tetrahydropyranyl)-threonine methyl ester
To a methylene chloride solution (1.0 ml) of N-(t-butoxycarbonyl)-2-amino-4-pentenoyl-O-(tetrahydropyranyl)threonine methyl ester (37 mg, 0.09 mmol) and 2,6-lutidine (0.021 ml, 0.18 mmol) was added dropwise t-butyldimethylsilyltrifluoromethane sulfonate (TBDMSOTf) (0.031 ml, 0.14 mmol) at room temperature in a nitrogen atmosphere. After the mixture was stirred for 15 minutes, a saturated aqueous solution of ammonium chloride (2 ml) was added to quench the reaction and extraction with ether was conducted. The organic layer was dried over anhydrous magnesium sulfate and filtered. By distilling off the solvent under vacuum, the titled compound was obtained in an amount of 45.8 mg.

reactant | N-(t-butoxycarbonyl)-2-amino-4-pentenoyl-O-(tetrahydropyranyl)threonine methyl ester | 0.09 mmol, 37 mg | COC([C@@](NC(=O)OC(C)(C)C)([C@H](OC1OCCCC1)CC(C=CCC)=O)N)=O | C20H34N2O7
reactant | 2,6-lutidine | 0.18 mmol, 0.021 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | t-butyldimethylsilyltrifluoromethane sulfonate | 0.14 mmol, 0.031 ml | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
reactant | ammonium chloride | 2 ml | [Cl-].[NH4+]
solvent | methylene chloride | 1.0 ml | C(Cl)Cl | CH2Cl2
product | N-(t-Butyldimethylsilyloxycarbonyl)-2-amino-4-pentenoyl-O-(tetrahydropyranyl)-threonine methyl ester | COC([C@@](NC(=O)O[Si](C)(C)C(C)(C)C)([C@H](OC1OCCCC1)CC(C=CCC)=O)N)=O | C22H40N2O7Si
